US06057364
Under a N2 atmosphere was added 26.17 ml (0.20 ml) of diethylaminosulfur trifluoride (DAST) to 24 ml. of dry dichloromethane which was cooled to -78° C. To this solution was added drop-wise a dichloromethane solution (10 ml) of methyl 3-hydroxyadamantane-1-carboxylate (42.0 g, 0.20 mol). The suspension was allowed to warm to ambient temperature and stirred for 1 hour. To the resultant solution was added water (500 ml). The organic layer was separated, washed with brine, dried over magnesium sulfate, filtered and concentrated in vacuo to afford 41.6 g (98%) of crude product, mp <34° C, which slowly crystallized. 1H NMR (CDCl3) 1.70-1.80 (m-6H), 2.20-2.35(m-3H), 2.50-2.60 (m-6H), 7.00-7.70 (m-5H) 13C NMR (CDCl3) 30.84 (10.11), 34.79 (0.91), 37.56, 41.81 (17.73), 43.70 (20.15), 44.86 (10.16), 51.86, 92.13 (184.14). Under a N2 atmosphere was added to crude ester (41.6 g, 0.196 mol), 100 ml of methanol, 75 ml of tetrahydrofuran (THF), 50 ml of water followed by 16.0 g (0.40 mol) of NaOH pellets. The solution was allowed to stir overnight. The organic solvents were removed under reduced pressure, water (200 ml) was added and the solution was acidified to a pH of 1.0 with 6N HCl. The resultant solids were filtered, washed with water and air dried to afford 37.0 g (95%) of 3-fluoroadamantane-1-carboxylic acid (mp 154-156° C). An analytical sample of the title compound was obtained following an EtOAc/hexane recrystallization. Crystals from the recrystallization were suitable for X-ray analysis. Anal. Calc'd for C11H15O2F: C, 66.65; H, 7.63; F, 9.58; Found: C, 66.44; H, 7.72; F, 9.22.

reactant | diethylaminosulfur trifluoride | 26.17 ml | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
reactant | methyl 3-hydroxyadamantane-1-carboxylate | 0.20 mol, 42.0 g | OC12CC3(CC(CC(C1)C3)C2)C(=O)OC | C12H18O3
reactant | NaOH | 0.40 mol, 16.0 g | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 500 ml | O | H2O
product | 3-fluoroadamantane-1-carboxylic acid | 37.0 g, 95% | FC12CC3(CC(CC(C1)C3)C2)C(=O)O | C11H15FO2
